US07977344B2
6-Amino-2-butoxy-9-(tetrahydrofuran-3-ylmethyl)-7,9-dihydro-8H-purin-8-one
2-Butoxy-8-methoxy-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-6-amine (97 mg) was dissolved in methanol (2 mL) and treated with 4N hydrogen chloride in 1,4-dioxane (1 mL). The reaction mixture was stirred for 4 hours. The reaction was stripped to dryness. Water (2 mL) and methanol (15 mL) was added to the residue and then neutralised by the addition of 2N sodium hydroxide solution. The above was stripped to near dryness (small quantity of water remaining) and the solid thus obtained was filtered (transferred and washed the solid with water (2 mL, 3 times)). The solid was dried under suction before being dried further in vacuo (50° C.) for 2 hours. This afforded the title compound as a white solid (62 mg).

reactant | 2-Butoxy-8-methoxy-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-6-amine | 97 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H23N5O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | Water | 2 mL | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
product | 6-Amino-2-butoxy-9-(tetrahydrofuran-3-ylmethyl)-7,9-dihydro-8H-purin-8-one | 62 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1COCC1)=O | C14H21N5O3
